US07723367B2
spiro[indene-1,4′-piperidin]-3(2H)-one
N-boc-1-[4-spiro-piperidine]-3-indanone and trifluoroacetic acid were processed according to the method of Example 137D to provide the product. No purification was required. MS (ESI+) m/z 202 (M+H)+.

reactant | N-boc-1-[4-spiro-piperidine]-3-indanone | CC(C)(C)OC(=O)N1CCC2(CC1)CC(=O)C3=CC=CC=C23 | C18H23NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | spiro[indene-1,4′-piperidin]-3(2H)-one | N1CCC2(CC1)CC(C1=CC=CC=C12)=O | C13H15NO
